US20010037025A1
A mixture of 5-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-bicyclo[3.1.0]hexan-2-ol (610 mg, 2 mmol), pyridinium chlorochromate (880 mg, 4 mmol) and dichloromethane (40 mL) was stirred for 1 h at ice bath temperature. Removal of solvent under reduced pressure gave a residue, which was purified by flash chromatography (eluant 4 hexane:1 ethyl acetate) to give 5-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-bicyclo[3.1.0]hexan-2-one (590 mg, 97%).

reactant | 5-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-bicyclo[3.1.0]hexan-2-ol | 2 mmol, 610 mg | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C12CCC(C2C1)O | C21H30O
reactant | pyridinium chlorochromate | 4 mmol, 880 mg | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 5-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-bicyclo[3.1.0]hexan-2-one | 590 mg, 97% | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C12CCC(C2C1)=O | C21H28O
